US07332510B2
2-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-5-methyl-pyridine
The title compound, MS: m/e=309.5 (M+H+), was prepared in accordance with the general method of example 3 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-fluoro-5-methyl-pyridine.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 2-fluoro-5-methyl-pyridine | FC1=NC=C(C=C1)C | C6H6FN
product | 2-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-5-methyl-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=NC=C(C=C1)C)C | C17H13ClN4
